US07402592B2
tert-Butyl 4-(3-methyl-5-isoxazolyl)-6-azabicyclo[3.2.1]oct-3-ene-6-carboxylate
To a solution of acetaldoxime (65 mg, 1.1 mmol) in 15 mL of chloroform were added 2 drops of pyridine, followed by N-chlorosuccinimide (146 mg, 1.1 mmol). After stirring the cloudy mixture for 1 h at ambient temperature, tert-butyl 4-ethynyl-6-azabicyclo[3.2.1]oct-3-ene-6-carboxylate (233 mg, 1.00 mmol) was added in 2 mL of chloroform, followed by drop-wise addition of triethylamine (0.175 mL, 1.25 mmol). The mixture was stirred at ambient temperature for 4 h and then concentrated to dryness under reduced pressure. The residue was chromatographed on a silica gel column, with a gradient of 2:1 hexane/ethyl acetate to 2:1 ethyl acetate/hexane, to give first recovered starting material, then tert-butyl 4-(3-methyl-5-isoxazolyl)-6-azabicyclo[3.2.1]oct-3-ene-6-carboxylate (100 mg, 40%).

reactant | acetaldoxime | 1.1 mmol, 65 mg | C(C)=NO | C2H5NO
reactant | N-chlorosuccinimide | 1.1 mmol, 146 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl 4-ethynyl-6-azabicyclo[3.2.1]oct-3-ene-6-carboxylate | 1.00 mmol, 233 mg | C(#C)C1=CCC2CN(C1C2)C(=O)OC(C)(C)C | C14H19NO2
reactant | triethylamine | 1.25 mmol, 0.175 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 4-(3-methyl-5-isoxazolyl)-6-azabicyclo[3.2.1]oct-3-ene-6-carboxylate | CC1=NOC(=C1)C1=CCC2CN(C1C2)C(=O)OC(C)(C)C | C16H22N2O3
